2185-12-26 07:11:00 Physician Resident Progress Note
Chief Complaint: hct drop
   24 Hour Events:
   - Got 3 units PRBCs, 2 units of FFP, 1 unit of Cryo
   - Started on Meropenem for fever, WBC and UTI
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Hives; Rash;
   Ciprofloxacin
   Rash;
   Ertapenem
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Insulin sliding scale
   Meropenem
   Pantoprazole IV PPI
   Zofran prn
   Hydrocortisone cream
   Clabetasol cream
   Lactulose 30 QID
   Midodrine 15 TID
   Albumin 25 mg [**Hospital1 7**]
   Octreotide 200 sc q8 h
   Nystatin prn
   Reglan 10 TID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-12-26**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.2
C (99
   HR: 102 (99 - 120) bpm
   BP: 128/83(92) {124/59(75) - 148/90(100)} mmHg
   RR: 19 (19 - 30) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                    746 mL
                                                                  1,437 mL
   PO:
                  TF:
                                                                     44 mL
                                                                    178 mL
   IVF:
   Blood products:
                                                                    591 mL
                                                                  1,040 mL
   Total out:
                                                                    100 mL
                                                                    650 mL
   Urine:
                                                                    100 mL
                                                                     50 mL
   NG:
   Stool:
   600 mL
   Drains:
   Balance:
                                                                    646 mL
                                                                    787 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), + systolic murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: bases bilaterally)
   Abdominal: Soft, Bowel sounds present, Distended, Obese, + ascites,
   diffuse tenderness
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, diffuse ecchymoses
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, Axox2-3
   Labs / Radiology
   106 K/uL
   8.4 g/dL
   164 mg/dL
   2.8 mg/dL
   22 mEq/L
   3.6 mEq/L
   42 mg/dL
   106 mEq/L
   141 mEq/L
   23.1 %
   12.7 K/uL
        [image002.jpg]
                            [**2185-12-25**]  10:00 PM
                            [**2185-12-26**]  03:32 AM
   WBC
   13.0
   12.7
   Hct
   22.4
   23.1
   Plt
   119
   106
   Cr
   2.8
   Glucose
   164
   Other labs: PT / PTT / INR:21.7/46.0/2.1, ALT / AST:14/25, Alk Phos / T
   Bili:37/7.4, Differential-Neuts:68.2 %, Lymph:17.2 %, Mono:7.5 %,
   Eos:6.2 %, Fibrinogen:144 mg/dL, Albumin:4.4 g/dL, LDH:165 IU/L,
   Ca++:10.9 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Micro:
   [**2185-12-25**].  Blood culture x 2
 NGTD
   Urine culture
 pending
   Stool
 c. diff negative
   CXR. [**2185-12-25**].
   FINDINGS: In comparison with the study of [**12-23**], there has been
   placement of
   a long nasointestinal tube extends well into the stomach. Lower lung
   volumes
   are associated with some atelectatic changes at the bases. The
   possibility of
   supervening pneumonia cannot be unequivocally excluded.
   .
   CT abdomen/pelvis:  [**2185-12-25**].
   Significant increase in degree of ascites. Relative high density of the
   left
   abdominal wall musculature extending into the peritoneum suggestive of
   hematoma. Relative high-density fluid layering dependently within the
   pelvis
   is present, suggestive of layering blood products
   Assessment and Plan
   Ms. [**Known lastname **] [**Last Name (Titles) **] a 59 year old female with HCV/MTX cirrhosis with
   refractory ascites and hepatorenal syndrome transfered to MICU for
   unexplained Hct drop, likely secondary to trauma from recent
   paracentesis.
   .
   1.  Anemia.  Patient noted to have falling Hct since [**12-23**] after
   getting a therapeutic paracentis in LLQ on that day.  CT abd/pelvis
   shows blood in ascitic fluid and LLQ abomdinal wall hematoma in patient
   with significant hepatic coagulopathy and worsening abdominal
   tenderness and distension over the past 24 hours.  She has not bumped
   appropriately with 3 units of PRBCs. Patient noted to have rising T.
   bili and low haptoglobin, though normal AST, ALT and LDH which argue
   against hemolysis (secondary to ?zosyn, macrobid). Low haptoglobin may
   be due to hepatic impairment.  Concern for DIC given new fever, though
   rare shistocytes seen on peripheral smear and low fibrinogen of unclear
   significance in patient with liver failure.  EGD on [**7-17**] showed portal
   gastropathy but no history of significant GI bleed in recent days.
   Noted to have ecchymosis covering her body.  Suspect that patient has
   hemoperitoneum secondary to paracentesis due to hepatic coagulopathy.
   - transfuse cryo to keep fibrinogen > 80
   - transfuse PRBCs to keep Hct > 25
   - FFP x 2 to keep INR < 2
   - keep platelets > 50
   - q 6 hour Hcts, coags, platelets, DIC labs
   - gauic stool
   - apreciate heme recs
   - IV PPI [**Hospital1 7**] in case of element of GI bleed
   - consider repeat CT abd/pelvis if Hct does not respond to blood
   transfusions
   - consider surgery consult if unable to stabilize bleed with reversal
   of coagulapathy and blood product supports
   .
   2.  Fever.  Patient noted to have new fever to 101.4 on [**12-25**] in
   setting of being on Zosyn for UTI after being afebrile for > 1 week.
   Given concern that zosyn was causing hemolysis, this was stopped and
   patient was switched to levaquin.  CXR could not rule out PNA though no
   symptoms of pneumonia.  Para negative for SBP on [**2185-12-23**].   Will avoid
   repeat tap at present given trauma secondary to previous para.  Blood
   cultures NGTD at present.  Patient noted to have numerous skin
   breakdowns/ecchymosis.  PICC in place without evidence of infection.
   Of note, WBC has been rising for two days.  Of note, patient has a
   history of resistant infection; VRE bacteremia on [**11-16**] treated with
   dapto completed [**2185-12-2**]; ESBL E. coli UTI on [**12-10**] treated with 3 days
   of bactrim.
   - switch to meropenem for UTI therapy and monitor patient given history
   of allergy (rash) to ertapenem (discussed with ID fellow)
   - Follow fever, wbc
   - consider empiric linezolid given VRE history if patient decompensates
   to cover line infection
   .
   3.  Leukocytosis.  WBC has been rising for two days.  Known UTI on
   appropriate antibiotics for two days.  However, prior ESBL E. coli from
   two weeks ago was treated with only three days of bactrim.  CXR cannot
   rule out PNA, though low clinical suspician.  Hold off on repeat para
   due to concern for prior trauma.
   - f/u ua and culture
   - f/u blood cultures
   .
   4. Tachypnea.  Fount to be tachypneic in setting of significant
   abdominal ascites and after receiving 3 units of blood today.  Have
   been holding lasix throughout hospital stay.  However, satting 98% on
   RA.   Woresening CHF on CXR today, though appears comfortable and on
   room air.
   - lasix prn sob
   .
   5.  Tachycardia.  HR had been in 70s-80s until [**12-23**] when Hct began to
   fall.  HR has been steadily rising sicne [**12-23**], now 100-130.  Likely
   secondary to anemia and abomdinal pain.
   - check EKG
   - transfuse blood
   .
   6.  Cirrhosis/ ESLD.  Patient is s/p TIPS [**10-17**] admitted initially for
   refractory ascites.  She underwent therapeutic tap 2 days ago ([**12-23**])
   which showed no evidence of SBP. Awaiting liver transplant, although
   need workup for newly diagnosed thyroid malignancy prior to trasplant.
   - continue lactulose
   - discuss with liver why not on rifaxamin
   - lasix 40iv prn volume overload in setting of significant blood
   product transfusions
   .
   7.  Confusion.  Patient noted to be more confused over the past few
   days.  Triggered on [**12-23**] for confusion so lactulose was increased.  No
   evidence of asterixis at present.  Likely multifactorial etiology of
   confusion secondary to abdominal pain, anemia, fever, ?infection, and
   hepatic failure/encephalopathy.
   - follow fever/wbc
   - continue lactulose
   - continue antibiotics
   .
   8. ARF.  Patient has been treated for HRS for >2 weeks.  Urine sodium
   on [**12-10**] noted to be less than 2.  Has UTI at present, being treated
   with Levaquin.
   - U/A, urine lytes
   - monitor I/O
   - octreotide 100 mg SC TID
   - midodrine 7.5 mg TID
   - discuss with liver if albumin 25g [**Hospital1 7**] can be stopped due to
   significant blood product transfusions
   - appreciate renal recs
   .
   9. Papillary Thyroid Cancer. ***Patient currently UNAWARE of this
   diagnosis.**** While undergoing workup for hypercalcemia, patient found
   to have thryoid nodule.  Biopsy postiive for papillary carcinoma.
   Awaiting evaluation from surgery to determine if surgical resection is
   curable.  Liver transplant on hold pending malignancy workup/treatment.
   - surgery recs
   - liver team to inform patient of malignancy
   .
   10.  Hypercalcemia. Patient being followed by renal and endocrine for
   primary and secondary hyperparathyroidism.  Had low 24 hour urine
   calcium.
   - continue to monitor calcium
   .
   11. Psoriasis.  Evaluated by dermatology who feels skin findings are
   consistent with patient's known history of psoraisis.  However, drug
   reaction remains in differential which could support zosyn-induced
   hemolysis diagnosis.
   -Continue clobetasol, hydrocortisone
   .
   FEN - low salt diet, Nutren tube feeds to supplement oral intake,
   thiamine
   .
   Access - R PICC
   .
   PPx - pneumoboots, PPI
   .
   FULL CODE
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2185-12-25**] 10:14 PM 25 mL/hour
   Comments: PO diet as well
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2185-12-25**] 09:32 PM
   20 Gauge - [**2185-12-25**] 09:33 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other, therepeutic INR (liver
   failrue))
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition:ICU

2185-12-26 07:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2185-12-25**] 09:32 PM
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Hives; Rash;
   Ciprofloxacin
   Rash;
   Ertapenem
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-12-26**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.2
C (99
   HR: 111 (99 - 120) bpm
   BP: 128/83(92) {124/59(75) - 148/90(100)} mmHg
   RR: 24 (19 - 30) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                    746 mL
                                                                  1,563 mL
   PO:
                  TF:
                                                                     44 mL
                                                                    195 mL
   IVF:
   Blood products:
                                                                    591 mL
                                                                  1,147 mL
   Total out:
                                                                    100 mL
                                                                    650 mL
   Urine:
                                                                    100 mL
                                                                     50 mL
   NG:
   Stool:
   600 mL
   Drains:
   Balance:
                                                                    646 mL
                                                                    913 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL, icteric sclera
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Dullness : bases b/l), (Breath
   Sounds: Crackles : bases bilateral, Diminished: bases)
   Abdominal: Soft, Bowel sounds present, Distended, lareg ascites
   Extremities: 2+ bilateral
   Skin:  Warm with diffuse ecchymosis and hemorrhagic bullae over the
   left thumb
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   8.4 g/dL
   106 K/uL
   164 mg/dL
   2.8 mg/dL
   22 mEq/L
   3.6 mEq/L
   42 mg/dL
   106 mEq/L
   141 mEq/L
   23.1 %
   12.7 K/uL
        [image002.jpg]
                            [**2185-12-25**]  10:00 PM
                            [**2185-12-26**]  03:32 AM
   WBC
   13.0
   12.7
   Hct
   22.4
   23.1
   Plt
   119
   106
   Cr
   2.8
   Glucose
   164
   Other labs: PT / PTT / INR:21.7/46.0/2.1, ALT / AST:14/25, Alk Phos / T
   Bili:37/7.4, Differential-Neuts:68.2 %, Lymph:17.2 %, Mono:7.5 %,
   Eos:6.2 %, Fibrinogen:144 mg/dL, Albumin:4.4 g/dL, LDH:165 IU/L,
   Ca++:10.9 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR [**12-26**]: small lung vols, perihilar fullness, PICC and NG in
   place
   Assessment and Plan
   59 year old female with HCV/MTX cirrhosis with recurrent ascites and
   recent HRS who was admitted to MICU with a drop in HCT which is at
   least in part due to a recent paracentesis [**12-23**] with  intra-abdominal
   hemorrhage and failure to respond to transfusions on the floor.
   Hypotension / Hct Drop: at least in part explained by intra-abdominal
   hemorrhage in the setting of elevated INR and paracentesis attempt. She
   has received in total 4UPRBC and 1 UFFP since [**12-23**]. There may also be
   an element of hemolysis with increasing bilirubin and low haptogloibin
   but normal LDH  Notably she has no varices on EGD in [**8-/2185**] and no
   evidence of bleeding from above or below (grossly) but she is heme
   positive in stool  .  We will work to actively reverse her INR to
   prevent further bleeding. Perhaps there is an element of hemolysis (?
   Relation to Pip-tazo) and we have changed Abx.  DIC seems less likely
   based on low D-dimer, her fibrinogen is difficult to interpret in the
   setting of her liver disease.
   - Hct > 25, INR < 2.0 (if possible), PLt>50
   -Vit K
   - Follow DIC labs
   Fever: has a Klebsiella UTI (from [**12-23**]), notably she has had a ESBL
   Kleb in the past.  Notably the paracentesis on [**12-23**] was neg for
   infection (by WBC and clx).  She also has a PICC line but clx have
   remained neg. Will cont meropenem for now (despite ertapenem allergy,
   ok per ID). We will defer additional paracentesis, but if she spikes a
   fever we may need to re-consider. Antibiotics choices are complicated
   in this patient given her multiple allergies.
   - Cont Meropenem. If spikes wll need to add gram pos coverage (has a hx
   of VRE)
   - Follow up blood clx and urine clx.
   Ascites/Liver failure underlying Hep C/MTX with progressive liver
   failure. We will cont the
   - cont lactulose. Will ask liver service why she is not on rifax.
   - defer lasix given hemodynamic instability
   Renal failure: her new chronic base line appears to be near 2.8 with a
   known recent hx of HRS (s/p treatment with midodrine)
   - cont octreotide and midodrine with high dose albumin. We may be able
   to defer the albumin in the setting of her transfusions.
   Eosinophilia: unclear etiology it has been present since the end of
   [**Month (only) 1148**]. It does not appear to be related to medication although this
   would be the concern in the setting of her fevers (no rash). The
   broader differential includes papillary thyroid cancer .
   Papillary carcinoma: deferring additional work up at this point, she
   may be a surgical candidate.
   Other issues per ICU resident note.
   [**Name (NI) 791**]
   Pt not responding to transfusions. Increasing Abdominal girth.
   Concerning for persistent intra-abdominal bleeding.
   P/ Insert Cordis. CT ABD/ Pelvis. Stat consult to IR/ Gen surgery and
   Liver. Aggressive correction of coagulopathy. Monitor intra-abdominal
   pressure.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2185-12-25**] 10:14 PM 25 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2185-12-25**] 09:32 PM
   20 Gauge - [**2185-12-25**] 09:33 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes